US06747023B1
4-[(6-Chloronaphthalen-2-yl)sulfonyl]-1-[4-(pyridin-4-yl)benzoyl]piperazine-2-carboxylic acid hydrochloride
In a mixed solvent of ethanol (1 ml), tetrahydrofuran (1 ml) and water (1 ml), 4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-ethoxycarbonyl-1-[4-(pyridin-4-yl)benzoyl]piperazine hydrochloride (152 mg) obtained in Example A-2 was dissolved under ice cooling, followed by the dropwise addition of a 1N aqueous solution of sodium hydroxide. The reaction mixture was stirred at room temperature for 90 minutes. After concentration under reduced pressure, 1N hydrochloric acid was added to the reaction mixture to make it weakly acidic. The colorless solid so precipitated was collected by filtration, followed by drying, whereby the title compound (62 mg, 42%) was obtained as a colorless solid.

reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
reactant | 4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-ethoxycarbonyl-1-[4-(pyridin-4-yl)benzoyl]piperazine hydrochloride | 152 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(C1=CC=C(C=C1)C1=CC=NC=C1)=O)C(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 1 ml | O | H2O
product | 4-[(6-Chloronaphthalen-2-yl)sulfonyl]-1-[4-(pyridin-4-yl)benzoyl]piperazine-2-carboxylic acid hydrochloride | 62 mg, 42% | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(C1=CC=C(C=C1)C1=CC=NC=C1)=O)C(=O)O | InChI=1S/C27H22ClN3O5S.ClH/c28-23-7-5-22-16-24(8-6-21(22)15-23)37(35,36)30-13-14-31(25(17-30)27(33)34)26(32)20-3-1-18(2-4-20)19-9-11-29-12-10-19;/h1-12,15-16,25H,13-14,17H2,(H,33,34);1H
